Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim DS / Ceclor / Percodan / Mushroom Flavor / peppers / 
Percocet / clams
 
Attending: ___.
 
Chief Complaint:
Dyspnea 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx tobacco abuse (no hx COPD, no PFTs in system), recent 
viral URI, p/w dyspnea at rest w/o CP. 

History taken from patient who reports that she had diarrhea 
last ___ briefly, since resolved. Felt well ___ but on 
___ had symptoms of a cold coming on, including sore throat, 
general malaise and diffuse aches of her muscles and joints. 
These symptoms lingered for several days until yesterday when 
she left work early for feeling unwell. Overnight she couldn't 
sleep because she couldn't catch her breath. She never 
experienced chest pain, her cough was only productive of clear 
phlegm, and there was never any wheeze. No fevers, only chills. 
She came to the ED today for evaluation. 

In the ED, initial VS were: 97.9 105 187/90 20 93% RA.
 
ED physical exam was recorded as:
Peak flow 150
Faint expiratory wheezes with decreased breath sounds 
bilaterally
somewhat tachycardic rate with no r/m/g
No abdominal distension, NT, no rebound/guarding
Dry mucus membranes

ED labs were notable for: WBC 10.2 with left shift, no bandemia. 
Chem10 essentially normal. UA with Lg Leuk, 6 WBC, Tr Blood.

Imaging showed:
___ CXR: IMPRESSION:    
No radiographic evidence of pneumonia. 

EKG showed: baseline artifact, NSR w/o ischemic change.

Patient was given:
___ 01:50 PO Benzonatate 100 mg 
___ 01:50 PO/NG Guaifenesin-Dextromethorphan 5 mL
___ 01:50 PO/NG PredniSONE 40 mg 
___ 01:50 PO/NG Azithromycin 500 mg 
___ 01:56 IH Ipratropium Bromide Neb 1 NEB 
___ 01:56 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 05:52 PO/NG Levothyroxine Sodium 150 mcg 
___ 08:18 IH Albuterol 0.083% Neb Soln 1 Neb 
___ 08:18 IH Ipratropium Bromide Neb 1 Neb 
___ 10:08 PO Benzonatate 100 mg 
She also received 1L IVF.

ED subsequently documented that the patient failed an ambulatory 
sat, and so were admitted for presumed COPD exacerbation. @ 0630 
- 92% on 3L NC (new O2 requirement). 

Transfer VS were: 97.8 79 138/75 18 95% Nasal Cannula. 

When seen on the floor, patient is feeling pretty well from the 
breathing treatments she had in the ED. She does not feel short 
of breath with the supplemental oxygen on. There is no chest 
congestion nor sinus congestion now (though the nebs apparently 
partially alleviated this latter symptom). No leg swelling. No 
recent travel or sick contacts that she can think of. 
 
REVIEW OF SYSTEMS: 
A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
Tobacco Abuse (no hx COPD, no PFTs in system)
Hypothyroidism
HLD
OA
Rheumatoid Arthritis
 
Social History:
___
Family History:
Mother had breast ___.
Father had lymphoma.
Brother had testicular ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.1 128/77 94 18 93%3L
Gen: Pleasant elder female sitting on bed, speaking complete 
sentences, no acute distress
Eyes: Anicteric sclera
ENT: Hearing normal, no rhinitis, no sinus pressure, clear OP
Cardiac: RRR, no r/g/m
Resp: Distant breath sounds all lung fields but no focal 
adventitial breath sounds, no w/r/r, no accessory muscle use
GI: Soft NT ND +BS
MSK: No effusions, mild kyphosis
Skin: Warm, no rashes
Neuro: AAOx3 face symmetric moving all limbs normally
Psych: Normal

DISCHARGE PHYSICAL EXAM:
Vitals: 97.2 103 / 63 74 14 94%RA
Gen: Pleasant elder female sitting on bed, speaking complete 
sentences, no acute distress
Eyes: Anicteric sclera
ENT: Hearing normal, no rhinitis, no sinus pressure, clear OP
Cardiac: RRR, no r/g/m
Resp: Distant breath sounds all lung fields but no focal 
adventitial breath sounds, no w/r/r, no accessory muscle use
GI: Soft NT ND +BS
MSK: No effusions, mild kyphosis
Skin: Warm, no rashes
Neuro: AAOx3 face symmetric moving all limbs normally
Psych: Normal
 
Pertinent Results:
ADMISSION LABS:
___ 01:05AM BLOOD WBC-10.2* RBC-5.06 Hgb-14.5 Hct-44.8 
MCV-89 MCH-28.7 MCHC-32.4 RDW-13.3 RDWSD-43.0 Plt ___
___ 01:05AM BLOOD Neuts-80.6* Lymphs-8.7* Monos-8.2 Eos-1.5 
Baso-0.6 Im ___ AbsNeut-8.20* AbsLymp-0.88* AbsMono-0.83* 
AbsEos-0.15 AbsBaso-0.06
___ 01:05AM BLOOD Glucose-119* UreaN-9 Creat-0.6 Na-142 
K-4.1 Cl-104 HCO3-27 AnGap-15
___ 01:05AM BLOOD Calcium-9.3 Phos-3.8 Mg-2.1
___ 06:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 06:00AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 06:00AM URINE RBC-<1 WBC-6* Bacteri-NONE Yeast-NONE 
Epi-<1 TransE-<1
___ 06:00AM URINE CastHy-1*

___ CXR: IMPRESSION:    
No radiographic evidence of pneumonia.

DISCHARGE LABS:
___ 07:20AM BLOOD WBC-7.8 RBC-4.61 Hgb-13.3 Hct-40.6 MCV-88 
MCH-28.9 MCHC-32.8 RDW-13.4 RDWSD-43.1 Plt ___
___ 07:20AM BLOOD Glucose-97 UreaN-13 Creat-0.6 Na-144 
K-4.3 Cl-105 HCO3-28 AnGap-15
___ 07:20AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.___ hx tobacco abuse (no hx COPD, no PFTs in system), recent 
viral URI, p/w dyspnea at rest w/o CP, with hypoxia, likely 
first COPD flare triggered by viral URI.

# Hypoxia
# Tobacco Abuse
# Likely COPD Flare from Viral URI
Could be first presentation of COPD triggered by viral URI, 
supported by initial symptomology, distant breath sounds on exam 
and long smoking history. No evidence of acute processes by 
cardiac markers or CTA Chest. Discharged on inhalers, 
azithromycin, prednisone burst and Guaifenesin for comfort. 
Could consider PFTs and Pulmonary consultation as an outpatient.

# HLD: Continued home statin
# Hypothyroidism: Continued home levothyroxine.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Levothyroxine Sodium 75 mcg PO 3X/WEEK (___) 
3. Levothyroxine Sodium 150 mcg PO 4X/WEEK (___) 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath, 
wheeze 
Use as needed in addition to your ipratroprium-albuterol 
inhaler. 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puff IH every four 
(4) hours Disp #*1 Inhaler Refills:*0 
2.  Azithromycin 250 mg PO Q24H Duration: 4 Days 
Finish ___. OK to dispense Zpac.  
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
3.  Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
RX *codeine-guaifenesin 10 mg-100 mg/5 mL 5 mL by mouth every 
six (6) hours Refills:*0 
4.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN shortness of 
breath, wheeze 
Use this inhaler first if feeling short of breath, no more than 
4 times a day. 
RX *ipratropium-albuterol [Combivent Respimat] 20 mcg-100 
mcg/actuation 1 puff IH every six (6) hours Disp #*1 Inhaler 
Refills:*0 
5.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour apply to arm daily Disp #*14 Patch 
Refills:*0 
6.  PredniSONE 40 mg PO DAILY Duration: 4 Days 
To finish ___ 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
7.  Atorvastatin 20 mg PO QPM  
8.  Levothyroxine Sodium 75 mcg PO 3X/WEEK (___)  
9.  Levothyroxine Sodium 150 mcg PO 4X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypoxia, likely acute COPD exacerbation. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted for low oxygen saturations which is likely a 
first manifestation of COPD triggered by a viral upper 
respiratory infection. Fortunately, you had no evidence of heart 
damage or lung clots. You recovered rapidly. Please take the 
medications prescribed below and follow-up with your primary 
care physician to discuss pulmonary function testing and 
potential referral to a Pulmonologist.

We wish you all the ___,
Your ___ Care Team
 
Followup Instructions:
___